US07498460B2
Ethyl 4-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-3-({cis-[4-(methoxy-carbonyl)cyclohexyl]amino}carbonyl)benzoate
The compound is prepared in analogy to the process described in Example 6 from 2-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-5-(ethoxycarbonyl)benzoic acid and ethyl cis-4-amino-1-cyclohexanecarboxylate.

reactant | 2-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-5-(ethoxycarbonyl)benzoic acid | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C(=O)O)C=C(C=C1)C(=O)OCC)C1=CC=CC=C1 | C32H30O6
reactant | ethyl cis-4-amino-1-cyclohexanecarboxylate | N[C@H]1CC[C@H](CC1)C(=O)OCC | C9H17NO2
product | Ethyl 4-{3-[4-(1,1′-biphenyl-4-ylmethoxy)phenyl]propoxy}-3-({cis-[4-(methoxy-carbonyl)cyclohexyl]amino}carbonyl)benzoate | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OCC)C=C1)C(=O)N[C@@H]1CC[C@@H](CC1)C(=O)OC)C1=CC=CC=C1 | C40H43NO7
